US08222416B2
To a mixture of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(5-bromo-pyridin-2-yl)-2-cyclopentyl-ethanol (0.28 g, 0.53 mmol), sodium methanesulfinate (82 mg, 0.8 mmol), and copper (I) iodide (10 mg, 0.05 mmol) in dimethylsulfoxide (5 mL) was added sodium hydroxide (4 mg, 0.106 mmol). The resulting mixture was heated at 95° C. After stirring for 12 h, the mixture was poured into water (10 mL), extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate, concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 20% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-ethanol (0.12 g, 43%): LC/MS m/e calcd for C26H27N3O5S2 [M+H]+ 526.65, observed 526.3.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-(5-bromo-pyridin-2-yl)-2-cyclopentyl-ethanol | 0.53 mmol, 0.28 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCCC2)(O)C2=NC=C(C=C2)Br | C25H24BrN3O3S
reactant | sodium methanesulfinate | 0.8 mmol, 82 mg | CS(=O)[O-].[Na+]
reactant | sodium hydroxide | 0.106 mmol, 4 mg | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-ethanol | 0.12 g, 43% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2CCCC2)(O)C2=NC=C(C=C2)S(=O)(=O)C | C26H27N3O5S2
